US07851634B2
b) 5-Bromo-3-iodo-1-methyl-1H-indazole
A solution of 184.30 g of 5-bromo-3-iodo-1H-indazole [459133-66-5] in 2500 ml of methanol is admixed at 40° C. with 212 ml of a sodium methoxide solution (5.4M in methanol). 90 ml of methyl iodide are then added and the reaction mixture is heated to 65° C. After 30 minutes, the reaction mixture is cooled to room temperature, concentrated by evaporation to approx. 1000 ml, diluted with water and extracted with ethyl acetate (2×). The combined organic phases are dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a dark brown solid from the residue by means of flash chromatography (SiO2 60 F). Rf=0.68 (dichloromethane). Rt=4.94 (gradient I). As a by-product, the 5-bromo-3-iodo-2-methyl-2H-indazole regioisomer is also isolated as a red-orange solid. Rf=0.52 (dichloromethane). Rt=4.58 (gradient I).

reactant | 5-bromo-3-iodo-1H-indazole | 184.30 g | BrC=1C=C2C(=NNC2=CC1)I | C7H4BrIN2
reactant | sodium methoxide | 5.4M, 212 ml | C[O-].[Na+]
reactant | methyl iodide | 90 ml | CI | CH3I
solvent | methanol | 2500 ml | CO | CH4O
product | 5-Bromo-3-iodo-1-methyl-1H-indazole | BrC=1C=C2C(=NN(C2=CC1)C)I | C8H6BrIN2
